US05262402
1-(3-n-butoxy-2-hydroxypropyl)-5,5-dipropyl-(1H,3H,5H)pyrimidine-2,4,6-trione
A solution of 5,5 dipropyl-(1H,3H,5H)-pyrimidine-2,4,6-trione (30.8 g, 0.15 mole) in dimethylformamide (30 ml) containing triethylamine (2.02 g, 0.2 mole) was mixed with butyl glycidyl ether (13 g, 0.1 mole). The mixture was heated at 60° C. for 6 hours. The solution was then diluted with water (150 ml) and extracted with toluene (2×50 ml). The organic layer was separated, washed with water (2×100 ml) dried and extracted with 5% aqueous sodium carbonate (6×100 ml). The toluene phase was then extracted with 1M aqueous sodium hydroxide (2×100 ml), the aqueous layers separated, washed with toluene (100 ml) and the pH was adjusted to 3 with sulphuric acid. The precipitated oily product was extracted with toluene (100 ml), and the organic layer was separated, washed with water, dried and evaporated to yield the title compound (16.3 g; 51.6%); purity by HPLC 96.5%.

reactant | 5,5 dipropyl-(1H,3H,5H)-pyrimidine-2,4,6-trione | 0.15 mole, 30.8 g | C(CC)C1(C(NC(NC1=O)=O)=O)CCC | C10H16N2O3
reactant | triethylamine | 0.2 mole, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | butyl glycidyl ether | 0.1 mole, 13 g | C(C1CO1)OCCCC | C7H14O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 1-(3-n-butoxy-2-hydroxypropyl)-5,5-dipropyl-(1H,3H,5H)pyrimidine-2,4,6-trione | 16.3 g, 51.6% | C(CCC)OCC(CN1C(NC(C(C1=O)(CCC)CCC)=O)=O)O | C17H30N2O5
